US07521461B2
Methyl 2-[(4-{3-[4-(benzyloxy)phenoxy]propyl}phenoxy)methyl]benzoate (0.70 g, 1.45 mmol) was dissolved in dichloromethane (10 ml). Dimethylsulfide (1.08 g, 17.4 mmol) and boron trifluoride etherate (2.06 g, 14.5 mmol) was added and the mixture was stirred at room temperature for six hours. EtOAc (10 ml) was added and the organic phase was washed with water (3×10 ml), dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). After removing the solvent by evaporation 0.328 gram of methyl 2-({4-[3-(4-hydroxyphenoxy)propyl]-phenoxy}methyl)benzoate (yield 57.6%) was obtained.

reactant | Methyl 2-[(4-{3-[4-(benzyloxy)phenoxy]propyl}phenoxy)methyl]benzoate | 1.45 mmol, 0.70 g | C(C1=CC=CC=C1)OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C31H30O5
reactant | Dimethylsulfide | 17.4 mmol, 1.08 g | CSC | C2H6S
reactant | boron trifluoride etherate | 14.5 mmol, 2.06 g | B(F)(F)F.CCOCC
reactant | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 2-({4-[3-(4-hydroxyphenoxy)propyl]-phenoxy}methyl)benzoate | 0.328 gram, yield 57.6% | OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C24H24O5
